US05824691
A mixture of methyl 5-amino-3-pyridinecarboxylate (1.7 g) and 2.5-dimethoxytetrahydrofuran (2.2 g) in acetic acid (5 ml) was refluxed for 30 minutes. After being cooled to room temperature, the reaction mixture was poured into a mixture of ethyl acetate (50 ml) and water (50 ml) under stirring, and adjusted to pH 8.5 with 10% potassium carbonate aqueous solution. The organic layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was recrystallized from diethyl ether-n-hexane to afford methyl 5-(pyrrol-1-yl)-3-pyridinecarboxylate (1.29 g).

reactant | methyl 5-amino-3-pyridinecarboxylate | 1.7 g | NC=1C=C(C=NC1)C(=O)OC | C7H8N2O2
reactant | 2.5-dimethoxytetrahydrofuran | 2.2 g | COC1OC(CC1)OC | C6H12O3
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | methyl 5-(pyrrol-1-yl)-3-pyridinecarboxylate | 1.29 g | N1(C=CC=C1)C=1C=C(C=NC1)C(=O)OC | C11H10N2O2
